US07915267B2
By a method similar to that in Example 19, and using, instead of ethyl 4-oxo-3,4-dihydro-2-quinazolinecarboxylate, ethyl 5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxylate obtained according to the method described in U.S. Pat. No. 4,054,656 and using, instead of 1-(2-{[2-(1H-1,2,4-triazol-3-ylthio)ethyl]oxy}pyridin-4-yl)methanamine hydrochloride, 1-{2-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]thio}ethyl)oxy]pyridin-4-yl}methanamine obtained in Reference Example 20, 5-methyl-4-oxo-N-({2-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]thio}ethyl)oxy]pyridin-4-yl}methyl)-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxamide was obtained as a white powder (85 mg, 20%).

reactant | ethyl 4-oxo-3,4-dihydro-2-quinazolinecarboxylate | O=C1NC(=NC2=CC=CC=C12)C(=O)OCC | C11H10N2O3
reactant | ethyl 5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxylate | CC1=CSC=2N=C(NC(C21)=O)C(=O)OCC | C10H10N2O3S
reactant | 1-(2-{[2-(1H-1,2,4-triazol-3-ylthio)ethyl]oxy}pyridin-4-yl)methanamine hydrochloride | Cl.N1N=C(N=C1)SCCOC1=NC=CC(=C1)CN
reactant | 1-{2-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]thio}ethyl)oxy]pyridin-4-yl}methanamine | C1(=CC=CC=C1)C(N1N=C(N=C1)SCCOC1=NC=CC(=C1)CN)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H27N5OS
product | 5-methyl-4-oxo-N-({2-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]thio}ethyl)oxy]pyridin-4-yl}methyl)-3,4-dihydrothieno[2,3-d]pyrimidine-2-carboxamide | CC1=CSC=2N=C(NC(C21)=O)C(=O)NCC2=CC(=NC=C2)OCCSC2=NN(C=N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C37H31N7O3S2
